US08197903B2
Compound 3-chloropropyltrivinylsilane (1000 mg, 5.35 mmol) and sodium cyanide (525 mg, 10.70 mmol) were dissolved in 18 ml of dimethylformamide, and the mixture was heated at 70° C. for 4 hours. After the reaction, the organic layer was extracted after addition of distilled water and ether, and then purified by column chromatography (n-Hex:EA=10:1, Rf=0.42), to give 818 mg (86% yield) of pure 3-cyanopropyltrivinylsilane.

reactant | 3-chloropropyltrivinylsilane | 5.35 mmol, 1000 mg | ClCCC[Si](C=C)(C=C)C=C | C9H15ClSi
reactant | sodium cyanide | 10.70 mmol, 525 mg | [C-]#N.[Na+]
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | 3-cyanopropyltrivinylsilane | 818 mg, 86% yield | C(#N)CCC[Si](C=C)(C=C)C=C | C10H15NSi
